US07220750B2
4-[(3-Bromophenyl)amino]-7-[3-(1-methylpiperidin-4-yl)propyloxy]-6-[(vinylcarbonyl)amino]quinazoline
To a solution of 300 mg of 6-amino-4-[(3-bromophenyl)amino]-7-[3-(1-methylpiperidin-4-yl)propyloxy]quinazoline in 7 ml of dichloromethane are added 0.28 ml of triethylamine. The reaction mixture is cooled to about −10° C. in an ice/sodium chloride cooling bath. Then a solution of 59 μl of acrylic acid chloride in 1 ml of tetrahydrofuran is added dropwise within 10 minutes. The cooling bath is removed and the mixture is stirred for a further 15 minutes at ambient temperature. For working up, the reaction mixture is poured on to 20 ml of ice water and mixed with 2–3 ml of 2 N sodium hydroxide solution, whereupon a light-colored precipitate is formed. The precipitate is suction filtered, washed with cold water and dissolved in dichloromethane. The solution is dried over sodium sulfate and concentrated by evaporation. The resin-like crude product is purified by chromatography over a silica gel column with methylene chloride/methanol/concentrated ammonia solution (90:10:0.5). Yield: 118 mg (35% of theory); Rf value: 0.35 (silica gel, methylene chloride/methanol/concentrated aqueous ammonia solution=90:10:0.1); mass spectrum (ESI+): m/z=524, 526 [M+H]+.

reactant | 6-amino-4-[(3-bromophenyl)amino]-7-[3-(1-methylpiperidin-4-yl)propyloxy]quinazoline | 300 mg | NC=1C=C2C(=NC=NC2=CC1OCCCC1CCN(CC1)C)NC1=CC(=CC=C1)Br | C23H28BrN5O
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | acrylic acid chloride | 59 μl | C(C=C)(=O)Cl | C3H3ClO
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-[(3-Bromophenyl)amino]-7-[3-(1-methylpiperidin-4-yl)propyloxy]-6-[(vinylcarbonyl)amino]quinazoline | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)NC(=O)C=C)OCCCC1CCN(CC1)C | C26H30BrN5O2
